US05973156
Step 1: 3-Acetyl-4-methoxypyridine
A solution of 3-acetyl-4-chloropyridine (0.75 g, 4.8 mmol) in sodium methoxide solution (0.5M in methanol, 10.6 ml, 5.3 mmol) was heated at reflux for 1 hour. After cooling water (10 ml) was added and the solvents evaporated. The residue was partitioned between dichloromethane (4×50 ml) and water (50 ml), the combined organic phases dried (MgSO4) and evaporated to afford the title compound (0.58 g, 80%) as a yellow solid. 1H NMR (360 MHz, CDCl3) δ 2.62 (3H, s), 3.98 (3H, s), 6.90 (1H, d, J=5.8 Hz), 8.57 (1H, d, J=5.7 Hz), 8.81 (1H, s).

reactant | 3-acetyl-4-chloropyridine | 4.8 mmol, 0.75 g | C(C)(=O)C=1C=NC=CC1Cl | C7H6ClNO
reactant | sodium methoxide | 5.3 mmol, 0.5M, 10.6 ml | C[O-].[Na+]
solvent | water | 10 ml | O | H2O
product | 3-Acetyl-4-methoxypyridine | 0.58 g, 80% | C(C)(=O)C=1C=NC=CC1OC | C8H9NO2
